US08486952B2
A mixture of 3-phenyldihydro-2H-pyran-4(3H)-one (Intermediate I(2)) (3 g, 17.02 mmol) and carbonisocyanatidic chloride (10.48 g, 29.8 mmol) in a sealed tube was heated to 58° C. and stirred for 1 h. The mixture was then brought to 130° C. and stirred for an additional 2 h. The reaction turned black during this time. After cooling to RT, the tar was taken up in EtOAc (100 mL). The resulting solution was washed with saturated aqueous sodium bicarbonate (2×50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (Silica, EtOAc/Hexanes) gave 8-phenyl-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione (2.58 g, 10.52 mmol, 61.8% yield) as a brown solid. LC-MS (M+H)+=246.0. 1H NMR (500 MHz, MeOD) δ ppm 7.34-7.41 (4H, m), 7.29-7.34 (1H, m), 4.42-4.63 (2H, m), 4.08-4.15 (1H, m), 3.94 (1H, dd, J=11.44, 4.12 Hz), 3.85 (1H, ddd, J=4.20, 2.44, 2.21 Hz).

reactant | 3-phenyldihydro-2H-pyran-4(3H)-one | 17.02 mmol, 3 g | C1(=CC=CC=C1)C1COCCC1=O | C11H12O2
reactant | carbonisocyanatidic chloride | 29.8 mmol, 10.48 g | C(=O)(N=C=O)Cl | C2ClNO2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 8-phenyl-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione | 10.52 mmol, 2.58 g, 61.8% yield | C1(=CC=CC=C1)C1COCC=2C(NC(OC21)=O)=O | C13H11NO4
